US07399774B2
Dissolve sodium metal (1.51 g, 66.0 mmol) in abs. EtOH (50 ml) and DME (100 ml) and add the resulting solution drop-wise to a mixture of 5-methoxy-1-indanone (3.57 g, 22.0 mmol), tosylmethyl isocyanide (6.45 g, 33.0 mmol) and DME (150 ml) cooled to −5° C. under nitrogen. After addition is complete (ca. one hour), allow mixture to slowly obtain ambient temperature and stir overnight. After cooling to 0° C., carefully quench with water and extract with EtOAc (2×). Wash the combined extracts with water and brine, dry (MgSO4) and concentrate. Purify on silica gel (toluene) to give 5-methoxy-indan-1-carbonitrile (2.55 g) as a yellow oil. 1HNMR (CDCl3): 7.31 (d, 1H), 6.80 (m, 2H), 4.05 (t, 1H), 3.80 (s, 3H), 3.07 (m, 1H), 2.93 (m, 1H), 2.56 (m, 1H), 2.39 (m, 1H).

reactant | sodium | 66.0 mmol, 1.51 g | [Na] | Na
reactant | EtOH | 50 ml | CCO | C2H6O
reactant | 5-methoxy-1-indanone | 22.0 mmol, 3.57 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | tosylmethyl isocyanide | 33.0 mmol, 6.45 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
solvent | DME | 150 ml | COCCOC | C4H10O2
solvent | DME | 100 ml | COCCOC | C4H10O2
product | 5-methoxy-indan-1-carbonitrile | 2.55 g | COC=1C=C2CCC(C2=CC1)C#N | C11H11NO
